US05071999
b) 2,3-Dimethyl-2,7-diazabicyclo[3.3.0]octane
7.25 g (34.2 mmol) of ethyl 2,3-dimethyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux overnight with 50 ml of concentrated hydrochloric acid. The mixture is rendered alkaline with potassium carbonate and extracted ten times using 50 ml of chloroform each time, the extracts are dried over potassium carbonate and concentrated, and the residue is distilled.

reactant | ethyl 2,3-dimethyl-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 34.2 mmol, 7.25 g | CN1C2CN(CC2CC1C)C(=O)OCC | C11H20N2O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 2,3-Dimethyl-2,7-diazabicyclo[3.3.0]octane | CN1C2CNCC2CC1C | C8H16N2
